US08466306B2
(f) Preparation of sodium 4-[4-(dicyclohexylphosphino)cyclohexyl]benzenesulfonate, Cy2PC6H10C6H4SO3Na (Ligand 1A)
Sodium hydroxide (1.82 g; 45.5 mol.) is dissolved in 50 mL of methanol and added dropwise under nitrogen to 4-[4-(dicyclohexylphosphino)-cyclohexyl]benzenesulfonic acid (19.86 g; 45.5 mmol.) in 200 mL of methanol. The pH of the resulting system upon mixing with water is about 9.4. The mixture in methanol is filtered, the solvent is evaporated and the residue is dried in vacuum to constant weight. Yield of sodium 4-[4-(dicyclohexyl-phosphino)cyclohexyl]benzenesulfonate, Cy2PC6H10C6H4SO3Na, is 20.4 g (98%). 31P{1H} NMR CD3OD, ppm): −1.28. 1H NMR (δ CD3OD, ppm): 1.2-2.2 (m, 31H, cyclohexyl), 2.74 (m, 1H, PhCH), 7.34 and 7.74 (dd, J=8.2 Hz, 4H, aromatic).

reactant | Sodium hydroxide | 45.5 mol, 1.82 g | [OH-].[Na+]
reactant | 4-[4-(dicyclohexylphosphino)-cyclohexyl]benzenesulfonic acid | 45.5 mmol, 19.86 g | C1(CCCCC1)P(C1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)O)C1CCCCC1 | C24H37O3PS
reactant | water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | sodium 4-[4-(dicyclohexylphosphino)cyclohexyl]benzenesulfonate | C1(CCCCC1)P(C1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)[O-])C1CCCCC1.[Na+] | InChI=1S/C24H37O3PS.Na/c25-29(26,27)24-17-13-20(14-18-24)19-11-15-23(16-12-19)28(21-7-3-1-4-8-21)22-9-5-2-6-10-22;/h13-14,17-19,21-23H,1-12,15-16H2,(H,25,26,27);/q;+1/p-1
